US04824958
A solution of 1.25 g (11.11 mmol, 1.08 equiv) of potassium tert-butoxide in 7 mL of dimethyl sulfoxide is added rapidly to a room temperature solution of 1.26 g (5.16 mmol) of diethyl 3,4-dihydroxy-2,5-furandicarboxylate (Johnson, T. B. and Johns, C. O., J. Am. Chem. Soc., 28, 489 (1906)) in 10 mL of dimethyl sulfoxide under a nitrogen atmosphere. The resulting solution is stirred at room temperature for 5 minutes and treated with 3.28 g (26.63 mmol, 5.16 equiv) of 2-bromopropane. The resulting reaction mixture is stirred for 24 hours at room temperature under a nitrogen atmosphere and poured onto water. The aqueous mixture is extracted with ethyl acetate (3x). The combined extracts are washed with water (2x) and saturated aqueous sodium chloride, dried over sodium sulfate and concentrated in vacuo to give 1.23 g of diethyl 3,4-diisopropoxy-2,5-furandicarboxylate as a solid.

reactant | potassium tert-butoxide | 11.11 mmol, 1.25 g, 1.08 equiv | CC(C)([O-])C.[K+]
reactant | diethyl 3,4-dihydroxy-2,5-furandicarboxylate | 5.16 mmol, 1.26 g | OC1=C(OC(=C1O)C(=O)OCC)C(=O)OCC | C10H12O7
reactant | 2-bromopropane | 26.63 mmol, 3.28 g, 5.16 equiv | BrC(C)C | C3H7Br
solvent | dimethyl sulfoxide | 7 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | diethyl 3,4-diisopropoxy-2,5-furandicarboxylate | 1.23 g | C(C)(C)OC1=C(OC(=C1OC(C)C)C(=O)OCC)C(=O)OCC | C16H24O7
